.SUBCKT H81L1 107 105 103 109 108 111 102 101 106 100 112 104 113 114 115 116 117 118 119 120
* hip4081 macromodel level 1
* 107 bhb 
* 105 bhi 
* 103 dis 
* 109 vss 
* 108 bli 
* 111 ali
* 102 ahi
* 101 hdel
* 106 ldel
* 100 ahb
* 112 aho
* 104 ahs
* 113 alo
* 114 als
* 115 vcc
* 116 vdd
* 117 bls
* 118 blo
* 119 bhs
* 120 bho
C1 107 0 1PF  
C2 105 0 1PF  
C3 103 0 1PF  
C4 109 0 1PF  
C5 108 0 1PF  
C6 111 0 1PF  
C7 102 0 1PF  
C8 101 0 1PF  
C9 106 0 1PF  
C10 100 0 1PF  
C11 112 0 1PF  
C12 104 0 1PF  
C13 113 0 1PF  
C14 114 0 1PF  
C15 115 0 1PF  
C16 116 0 1PF  
C17 117 0 1PF  
C18 118 0 1PF  
C19 119 0 1PF  
C20 120 0 1PF  
VON 101 109 5.1  
HCHG1 121 0 POLY 1 VON 0 1  
RCHG1 121 0 1K  
VOF 106 109 5.1  
HCHG2 122 0 POLY 1 VOF 0 1  
RCHG2 122 0 1K  
FCONT 116 109 POLY 2 VON VOF 6M -2 -2  
X2 102 123 124 116 109 125 H81L1X2  
X3 105 123 126 116 109 125 H81L1X2  
X4 103 123 127 116 109 125 H81L1X2  
X5 111 123 128 116 109 125 H81L1X2  
X14 108 123 129 116 109 125 H81L1X2  
EVDDINT 125 109 116 109 1  
IX1 109 123 1.37600000E-04  
RX1 109 123 25K  
VX1 130 109 3.44  
DX1 130 123 DX1  
.MODEL DX1 D N=0.6
EVDD 131 109 116 109 1.00000000E-02  
EVCC 132 109 115 109 1  
X15 127 109 131 109 133 H81L1X15  
X6 127 131 109 134 H81L1X6  
X7 133 126 134 116 129 116 109 115 107 120 119 118 117 135 131 132 136 121 122
+ H81L1X7  
X8 133 124 134 116 128 116 109 115 100 112 104 113 114 135 131 132 136 121 122
+ H81L1X7  
V1 135 0 PULSE 0 1 625N 5N 5N 5N 1.25U  
RV1 135 0 1K  
VCON 136 0 PULSE 0 1 0 1N 1N 
RCON 136 0 1K  
.ENDS H81L1  
.SUBCKT H81L1X7 107 105 103 109 117 108 111 102 101 106 100 112 104 118 119
+ 120 136 124 126  
X9 107 108 105 103 109 117 119 111 113 115 136 124 126 H81L1X9  
X10 118 101 100 H81L1X10  
GS 116 0 POLY 4  113 111 119 111 101 100 116 0 0 0 0 0 0 0 0 -1.00000000E-02 0
+ 0 0 1  
CS 0 116 5PF  
RS 0 116 1.0E+12  
E12 123 100 101 100 1  
X12 116 0 123 100 106 101 100 H81L1X12  
X13 115 111 120 111 112 102 104 H81L1X12  
RPUL 112 104 100K  
.ENDS H81L1X7  
.SUBCKT H81L1X2 105 103 109 108 111 106  
GCUR 108 101 POLY 1  108 109 1.12000000E-04 1.66666667E-06  
DCUR 101 108 DIOLIM  
CCUR1 101 108 5.60000000E-13  
CCUR2 101 103 1.00000000E-14  
CCUR3 103 105 7.00000000E-14  
GINV 111 109 POLY 2  108 111 101 111 0 4.90000000E-04 -1.00000000E-03  
RINV 111 109 1.00000000E+04  
CINV 111 109 4.40000000E-13  
DHIGH 109 106 DIOLIM  
DLOW 111 109 DIOLIM  
.MODEL DIOLIM D N=0.1
M1 101 103 105 105 NMOS0 W=1.00000000E-06 L=1.00000000E-06  
.MODEL NMOS0 NMOS LEVEL=1 VTO=1.09 KP=8.5E-4 LAMBDA=3.0E-2
.ENDS H81L1X2  
.SUBCKT H81L1X6 105 103 111 108  
G6 111 107 POLY 2  105 111 103 111 0 1.00000000E-01 -5  
D11 107 111 DR  
D9 111 107 DF  
R12 107 111 1  
.MODEL DR D IS=1E-25 N=1.76631343E-03
.MODEL DF D IS=1E-25 N=8.22249354E-02
G7 103 109 107 111 1  
C3 109 111 1.11111111E-08  
D8 111 109 DIOLIM  
D10 109 103 DIOLIM  
GINV 111 102 POLY 2  109 111 103 111 0 -6.00000000E-03 3.69000000E-03  
RINV 111 102 2.00000000E+03  
DHIGH 102 103 DIOLIM  
DLOW 111 102 DIOLIM  
G62 111 108 POLY 3  103 111 102 111 105 111 0 -1.25000000E-03 1.00000000E-03
+ 1.00000000E-05  
R62 111 108 2.00000000E+03  
C6 108 111 2.25000000E-12  
DHIGH2 108 103 DIOLIM  
DLOW2 111 108 DIOLIM  
.MODEL DIOLIM D N=1.20E-04
.ENDS H81L1X6  
.SUBCKT H81L1X9 107 105 116 103 109 115 108 111 100 106 136 117 118  
G4 111 106 POLY 5  107 111 103 111 109 115 108 111 114 111 0 0 0 0
+ 7.50000000E-04 1.00000000E-03 0 -8.33333333E-03 -8.33333333E-05 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 0 0 0 0 6.94444444E-04  
R4 111 106 2.00000000E+03  
C4 111 106 6.75000000E-12  
DH4 106 108 DIOLIM  
DL4 111 106 DIOLIM  
G5 111 100 POLY 8  100 111 136 0 108 111 107 111 105 116 103 111 109 115 104
+ 111 0 0 0 2.50000000E-03 -2.00000000E-03 -2.00000000E-05 2.00000000E-03
+ 2.00000000E-05 1.00000000E-03 0 1.00000000E-03  
R5 111 100 2.00000000E+03  
C5 111 100 6.75000000E-12  
DH5 100 108 DIOLIM  
DL5 111 100 DIOLIM  
XA 107 105 116 103 109 115 104 108 111 114 118 H81L1X17  
XB 108 106 108 111 104 117 H81L1X16  
.MODEL DIOLIM D N=1.20000000E-03
.ENDS H81L1X9  
.SUBCKT H81L1X16 105 106 103 111 102 112  
G6 111 107 POLY 2  105 106 103 111 0 10 -5  
D11 107 111 DRX16  
D9 101 107 DFX16  
E9 111 101 POLY 1  112 0 0 -2.47500000E+02  
R12 107 111 1  
.MODEL DRX16 D IS=1E-25 N=8.22249354E-02
.MODEL DFX16 D IS=1E-25 N=5.13905846E-05
G7 103 109 107 111 1  
C3 109 111 1.00000000E-08  
D8 111 109 DIOLIM  
D10 109 103 DIOLIM  
GINV 111 102 POLY 2  103 111 109 111 0 -2.75000000E-03 6.00000000E-03  
RINV 111 102 2.00000000E+03  
CINV 111 102 9.75000000E-12  
DHIGH 102 103 DIOLIM  
DLOW 111 102 DIOLIM  
.MODEL DIOLIM D N=1.20E-04
.ENDS H81L1X16  
.SUBCKT H81L1X17 112 104 117 113 114 115 116 103 111 102 118  
G6 111 107 POLY 6  103 111 112 111 104 117 113 111 114 115 116 111 0 -15 10
+ 1.00000000E-01 -10 -1.00000000E-01 -10  
D11 107 111 DRX17  
D9 101 107 DFX17  
E9 111 101 POLY 1  118 0 0 -2.47500000E+02  
R12 107 111 1  
.MODEL DRX17 D IS=1E-25 N=8.22249354E-02
.MODEL DFX17 D IS=1E-25 N=5.13905846E-05
G7 103 109 107 111 1  
C3 109 111 1.00000000E-08  
D8 111 109 DIOLIM  
D10 109 103 DIOLIM  
GINV 111 102 POLY 2  103 111 109 111 0 -2.75000000E-03 6.00000000E-03  
RINV 111 102 2.00000000E+03  
CINV 111 102 9.75000000E-12  
DHIGH 102 103 DIOLIM  
DLOW 111 102 DIOLIM  
.MODEL DIOLIM D N=1.20E-04
.ENDS H81L1X17  
.SUBCKT H81L1X10 107 105 103  
GCHG 109 105 POLY 2  107 0 105 103 0 2.40000000E-03 0 0 -1.00000000E-04  
DIOH 105 109 DIOH  
DIOL 109 105 DIOL  
RPHA 103 109 1K  
.MODEL DIOH D IS=1.0E-30 N=8.12 RS=700
.MODEL DIOL D IS=0.9E-15 N=3.15 RS=100 BV=40
.ENDS H81L1X10  
.SUBCKT H81L1X12 107 111 105 103 109 102 108  
GINV 103 137 POLY 2  105 103 107 111 0 4.16666667E-04 -6.66666667E-02  
RINV 103 137 6.00000000E+03  
CINV 103 137 1.41666667E-12  
DHIGH 137 105 DIOLIM  
DLOW 103 137 DIOLIM  
GINV2 103 138 POLY 2  105 103 137 103 0 2.82500000E-03 -5.00000000E-03  
RINV2 103 138 8.00000000E+02  
CINV2 103 138 6.25000000E-12  
DHIGH2 138 105 DIOLIM  
DLOW2 103 138 DIOLIM  
.MODEL DIOLIM D N=1.20000000E-01
R1 110 109 2.00000000E+02  
M2 109 138 108 108 NMOS1 W=1.00000000E-06 L=1.00000000E-06  
M6 110 138 108 108 NMOS2 W=1.00000000E-06 L=1.00000000E-06  
M7 109 138 139 108 NMOS3 W=1.00000000E-06 L=1.00000000E-06  
M8 139 137 108 108 NMOS1 W=1.00000000E-06 L=1.00000000E-06  
M12 110 138 102 102 PMOS1 W=1.00000000E-06 L=1.00000000E-06  
Q13 102 110 109 0 NPN 1.60E+02 ;OFF  
Q14 109 139 108 0 NPN 1.00E+02 ;OFF  
.MODEL NMOS1 NMOS LEVEL=1 VTO=1.0E+0 KP=5.2E-3 GAMMA=1.3E+0 PHI=7.2E-1
+ RS=91
.MODEL NMOS2 NMOS LEVEL=1 VTO=1.0E+0 KP=1.3E-2 GAMMA=1.3E+0 PHI=7.2E-1
+ RS=38
.MODEL NMOS3 NMOS LEVEL=1 VTO=1.0E+0 KP=2.1E-2 GAMMA=1.3E+0 PHI=7.2E-1
+ RS=23
.MODEL PMOS1 PMOS LEVEL=1 VTO=-1.80000000E+00 KP=6.8E-3 LAMBDA=7.0E-2
+ GAMMA=5.7E-1 RS=40
.MODEL NPN NPN  IS=7.77E-17 BF=1.03E+02 ISE=2.75835000E-20 IK=9.88E-03
+ BR=7.49E+00 C4=1.52E+00 IKR=2.40E-03 VA=7.30E+01 VB=4.52E+00 RC=2.60E+02
+ TF=5.67E-11 XTF=1.40E+00 VTF=1.52E+01 ITF=9.95E-03 CJE=1.57E-13
+ PE=7.46E-01 ME=5.00E-01 FC=9.50E-01 CJC=2.32E-13 PC=6.76E-01 MC=4.81E-01
.ENDS H81L1X12  
.SUBCKT H81L1X15 105 106 103 111 102  
G6 111 107 POLY 2  105 106 103 111 0 8.33333333E-01 -5  
D11 107 111 DRX15  
D9 111 107 DFX15  
R12 107 111 1  
.MODEL DRX15 D IS=1E-25 N=8.22249354E-02
.MODEL DFX15 D IS=1E-25 N=8.22249354E-02
G7 103 109 107 111 1  
C3 109 111 4.00000000E-09  
D8 111 109 DIOLIM  
D10 109 103 DIOLIM  
GINV 111 102 POLY 2  103 111 109 111 0 -2.75000000E-03 6.00000000E-03  
RINV 111 102 2.00000000E+03  
CINV 111 102 3.25000000E-12  
DHIGH 102 103 DIOLIM  
DLOW 111 102 DIOLIM  
.MODEL DIOLIM D N=1.20E-04
.ENDS H81L1X15  
.END